spice
* NMOS Transistors
M1 3 3 2 2 NMOS W=1u L=1u
M2 4 4 2 2 NMOS W=2u L=1u
* PMOS Transistors
M3 5 3 6 6 PMOS W=1u L=1u
M4 7 4 6 6 PMOS W=1u L=1u
* Current Source
I1 4 6 DC Ibias
* Resistor
R1 4 2 R
* Voltage Source
? Missing component
* Models Declaration
.model NMOS NMOS (LEVEL=1)
.model PMOS PMOS (LEVEL=1)
